US07030128B2
To a degassed solution of 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine was added 5-bromo-2-fluoropyridine (0.128 ml, 1.3 mmol) and tetrakis(triphenylphosphine)palladium(0) (173 mg, 0.15 mmol) and the mixture heated at reflux for 5 h. The crude reaction was washed with water and extracted with ethyl acetate. After adding isohexane a dark solid was collected by suction filtration. The solid was adsorbed onto silica and purified by chromatography on silica gel, eluting with isohexane on a gradient of ethyl acetate (20-60%), to give 3-(2-fluoropyridin-5-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (150 mg) as a dark solid: δH (500 MHz, CDCl3) 7.12 (1H, m), 7.30 (1H, d, J 7), 7.99-8.02 (1H, m), 8.10 (1H, s), 8.46 (1H, s), 8.72 (1H, d, J 7); m/z (ES+) 282, 283 (M++H).

reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
reactant | 5-bromo-2-fluoropyridine | 1.3 mmol, 0.128 ml | BrC=1C=CC(=NC1)F | C5H3BrFN
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-fluoropyridin-5-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 150 mg | FC1=NC=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C12H6F4N4
